US09144757B2
To 2-Nitro-4-(2H-tetrazol-5-yl)-phenylamine (6.80 g) in methanol (450 ml) and 40% (v/v) hydrochloric acid (20 ml) was added 10% Pd on carbon. The reaction vessel was evacuated and charged with hydrogen using a balloon. After 4 hours the reaction was analyzed by HPLC. Water was added (100 ml) and the reaction mixture filtered. The catalyst was washed with 50% v/v methanol in water (100 ml). The solvents were evaporated under reduced pressure (175 mBar then 50 mBar) at 40° C. to yield a brownish colored solid 4-(2H-tetrazol-5-yl)-benzene-1,2-diamine dihydrochloride (6.45 g), Rt=4.9 mins. 1H NMR (d6-DMSO, 400 MHz) 7.82 ppm (1H d, 2 Hz), 7.67 ppm (1H, d of d, 8.5 Hz, 2 Hz), 7.03 ppm (1H, d, 8.4 Hz), MS: (Electrospray+) 176.8 m/z (M+), 198.7 m/z (M+Na).

reactant | 2-Nitro-4-(2H-tetrazol-5-yl)-phenylamine | 6.80 g | [N+](=O)([O-])C1=C(C=CC(=C1)C=1N=NNN1)N | C7H6N6O2
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | methanol | 450 ml | CO | CH4O
catalyst | Pd on carbon | [Pd] | Pd
product | 4-(2H-tetrazol-5-yl)-benzene-1,2-diamine dihydrochloride | 6.45 g | Cl.Cl.N=1NN=NC1C=1C=C(C(=CC1)N)N | InChI=1S/C7H8N6.2ClH/c8-5-2-1-4(3-6(5)9)7-10-12-13-11-7;;/h1-3H,8-9H2,(H,10,11,12,13);2*1H
